Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Atenolol
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: laparoscopic sleeve gastrectomy

 
History of Present Illness:
___ is a ___ female referred for the
evaluation of gastric restrictive surgery in the treatment and
management of morbid obesity by her primary care provider ___ in ___.  

___ has class III morbid obesity with weight of 260.8 pounds
as of ___ with her initial screening weight of 244.5 pounds
on ___, height 67.5 inches and BMI of 40.1.  Her previous
weight loss efforts have included Weight Watchers, the ___
diet, Slim-Fast, "Whole 30", acupuncture, prescription weight
loss medication phentermine and over-the-counter dietary
supplement/herbal product Herbalife.  She has been able to lose
up to 40-42 pounds but her weight loss efforts have failed to
produce lasting results.  She stated that her lowest adult 
weight
was 180 pounds at the age of ___ and she is now at her highest
weight at 258 pounds.  

She denies history of eating disorders - no anorexia, bulimia,
diuretic or laxative abuse and she denied binge eating with
purging.  She does have depression/anxiety and she is seen in
psychiatrist for medical management as well as a counselor twice
a month.  She has not been hospitalized for mental health issues
and she is on psychotropic medications (duloxetine for
fibromyalgia and depression, doxepin, lorazepam for anxiety).

ROS: Review of systems is notable for back pain, fatigue,  and
total body pain including atypical chest pain.  Denied shortness
of breath, weakness, headaches, visual or hearing changes,
dizziness/lightheadedness, palpitations, abdominal pain, nausea
or vomiting, fever/chills, night sweats, cough, dysphagia,
bleeding disorders, hemoptysis, hematemesis, hematochezia,
hematuria, dysuria, diarrhea or constipation.  She denied heart
disease, asthma, diabetes, sleep disordered breathing, 
polycystic
ovary syndrome, thromboembolism, back pain, osteoarthritis,
thyroid or gallbladder disorders.

 
Past Medical History:
1)  gastroesophageal reflux with several endoscopies
2)  hyperlipidemia
3)  hepatic steatosis by ultrasound study
4)  obstructive sleep apnea with recommendation for CPAP
5)  fibromyalgia
6)  back pain with sciatica and disc disease (injections at 
___
7)  cervicalgia
8)  vitamin D deficiency
9)  mild iron deficiency with saturation of 18.4%
10) history of renal mass with left kidney nephrectomy
11) history of supraventricular tachycardia and mitral valve
prolapse
12) irritable bowel syndrome
13) history of atypical chest pain - non-cardiac
14) urinary incontinence
15) history of hemorrhoids
16) eczema
17) history of vertigo
18) chronic pain syndrome
19) allergic rhinitis
20) abnormal Pap smear
21) history of chronic hoarseness s/p video stroboscopy × 2
22) history of vocal cord polyps

 
Social History:
___
Family History:
Noncontributory

 
Physical Exam:
Temp: 97.7 (Tm 98.4), BP: 158/86 (132-169/73-97), HR: 83
(70-83), RR: 18, O2 sat: 97% (96-97), O2 delivery: CPAP
GEN: AOx3, NAD  
HEENT: EOMI, sclera anicteric  
CV: RRR  
PULM: normal effort, no respiratory distress  
ABD: soft, mildly distended, mildly tender to RLQ, no
rebound or guarding, abdominal binder on, incisions c/d/i
EXT: warm, well-perfused, no edema
PSYCH: normal insight, memory, and mood 
 
Pertinent Results:
None
 
Brief Hospital Course:
___ is a ___ with morbid obesity who underwent a 
laparoscopic sleeve gastrectomy on ___.  There were no 
adverse events in the operating room; please see the operative 
note for details. Pt was extubated, taken to the PACU until 
stable, then transferred to the ward for observation.  
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with a preoperative TAP block 
and postoperative ketorolac, gabapentin and acetaminophen; 
opioid medication was used only for severe breakthrough pain 
prn.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on a stage 1 bariatric diet, which the 
patient tolerated well. Subsequently, the patient was advanced 
to stage 2,  which the patient was tolerating on day of 
discharge.  
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 2 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. LORazepam 0.5 mg PO BID:PRN anxiety 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergy 
symptoms 
3. betamethasone, augmented 0.05 % topical BID:PRN eczema 
4. Famotidine 40 mg PO QHS 
5. Ranitidine 300 mg PO QHS 
6. multivitamin-iron-folic acid ___ mg oral DAILY 
7. Pantoprazole 40 mg PO Q12H 
8. Loratadine 10 mg PO DAILY:PRN allergies 
9. DULoxetine ___ 90 mg PO DAILY 
10. Doxepin HCl ___ mg PO QHS:PRN insomnia 
11. FLUoxetine 40 mg PO DAILY 
12. biotin 000 mg oral ASDIR 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg/20.3 mL 20 ml by mouth every six (6) 
hours Disp #*300 Milliliter Refills:*0 
2.  biotin 0 mg oral ASDIR  
3.  multivitamin-iron-folic acid 0 mg oral DAILY  
4.  betamethasone, augmented 0.05 % topical BID:PRN eczema  
5.  Doxepin HCl ___ mg PO QHS:PRN insomnia  
6.  DULoxetine ___ 90 mg PO DAILY  
7.  Famotidine 40 mg PO QHS  
8.  FLUoxetine 40 mg PO DAILY  
9.  Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergy 
symptoms  
10.  Loratadine 10 mg PO DAILY:PRN allergies  
11.  LORazepam 0.5 mg PO BID:PRN anxiety  
12.  Pantoprazole 40 mg PO Q12H  
13.  Ranitidine 300 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You have undergone a laparoscopic sleeve gastrectomy, recovered 
in the hospital and are now prepared for discharge to home with 
the following instructions:

Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.  
Diet: Stay on Stage II diet until your follow up appointment; 
this stage was previously called stage III and consists of 
protein shakes, sugar free smooth pudding/ yogurt, etc; please 
refer to your work book for detailed instructions. Do not self- 
advance your diet and avoid drinking with a straw or chewing 
gum. To avoid dehydration, remember to sip small amounts of 
fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination.  
Medication Instructions:  
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  
Some of the new medications you will be taking include:  
1. Pain medication: You will receive a prescription for liquid 
acetaminophen (Tylenol), do not exceed 3000 mg per 24 hour 
period.  
2. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush.  
3. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) unless approved by your Weight Loss Surgery team. 
Examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. 
These agents may cause bleeding and ulcers in your digestive 
system. If you are unclear whether a medication is considered an 
NSAID, please ask call your nurse or ask your pharmacist.  
4. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian.  
Activity:  
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than10 
to 15 pounds for six weeks.  
Wound Care:  
You may remove any remaining gauze from over your incisions. You 
will have thin paper strips (Steri-Strips) over your incision; 
please, remove any remaining Steri-Strips seven to 10 days after 
surgery.  
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon. You may wear your 
abdominal binder as needed for comfort.  
If there is clear drainage from your incisions, cover with 
clean, dry gauze.  
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites.  
Avoid direct sun exposure to the incision area for up to 24 
months.  
Do not use any ointments on the incision unless you were told 
otherwise.  

 
Followup Instructions:
___